US04043922
Equal quantities by weight of 8-quinolinesulfonic acid and phosphorous pentachloride were ground together in a mortar. This mixture was then refluxed at approximately 140° C. for 3 hours after which work-up of the reaction mixture gave 8-quinolinesulfonyl chloride.

reactant | 8-quinolinesulfonic acid | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)O | C9H7NO3S
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 8-quinolinesulfonyl chloride | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
